US09382254B2
Step (iv): 2-(2-Hydroxy-benzoyl amino)-5-(morpholine-4-sulfonyl)-thiophene-3-carboxylic acid amide (Compound 143)
2-Amino-5-(morpholine-4-sulfonyl)-thiophene-3-carboxylic acid amide (150 mg, 0.51 mmol) is mixed with pyridine (63 μL, 0.77 mmol) and DMAP (15 mg, 0.12 mmol) in MeCN (1 mL). 2-Hydroxy-benzoyl chloride (103 mg, 0.65 mmol) is dissolved in 2 mL of MeCN and added to the reaction mixture. The resulting solution is stirred at 60° C. for 2 h, then diluted with DCM and finally washed with aqueous NaHCO3. The organic phase is evaporated to yield a residue which is purified by preparative chromatography to afford the desired product.

reactant | 2-Amino-5-(morpholine-4-sulfonyl)-thiophene-3-carboxylic acid amide | 0.51 mmol, 150 mg | NC=1SC(=CC1C(=O)N)S(=O)(=O)N1CCOCC1 | C9H13N3O4S2
reactant | pyridine | 0.77 mmol, 63 μL | N1=CC=CC=C1 | C5H5N
reactant | 2-Hydroxy-benzoyl chloride | 0.65 mmol, 103 mg | OC1=C(C(=O)Cl)C=CC=C1 | C7H5ClO2
catalyst | DMAP | 0.12 mmol, 15 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | MeCN | 1 mL | CC#N | C2H3N
solvent | MeCN | 2 mL | CC#N | C2H3N
solvent | DCM | C(Cl)Cl | CH2Cl2
product | 2-(2-Hydroxy-benzoyl amino)-5-(morpholine-4-sulfonyl)-thiophene-3-carboxylic acid amide | OC1=C(C(=O)NC=2SC(=CC2C(=O)N)S(=O)(=O)N2CCOCC2)C=CC=C1 | C16H17N3O6S2
